US05659044
4-((Amino)thiocarbonyl)morpholine.
Using the procedure of Example 9C but replacing 2-(N,N-dimethylamino)-4-(hydroxymethyl)thiazole with 2-(4-morpholinyl)-4-(hydroxymethyl)thiazole provided, after silica gel chromatography using 1% methanol in chloroform, the desired compound, Rf 0.54 (4% methanol in chloroform), in 65% yield. 1H NMR (CDCl3) δ0.97 (d, J=7 Hz, 3H), 1.00 (d, J=7 Hz, 3H), 2.25 (m, 1H), 3.50 (dd, J=5, 4 Hz, 2H), 3.76 (s, 3H), 3.84 (dd, J=5, 4 Hz, 2H), 4.67 (dd, J=9, 5 Hz, 1H), 7.63 (br d, 1H), 8.02 (s, 1H).

reactant | 2-(4-morpholinyl)-4-(hydroxymethyl)thiazole | N1(CCOCC1)C=1SC=C(N1)CO | C8H12N2O2S
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-((Amino)thiocarbonyl)morpholine | 65% yield | NC(=S)N1CCOCC1 | C5H10N2OS
